US07700641B2
B. Synthesis of ethyl[3-(3-hydroxy-5,6,7,8-tetrahydronaphthalen-2-yl)-2-oxo-2,3-dihydro-1H-indol-1-yl]acetate
Following the procedure as described in PREPARATION 15B, and making non-critical variations to replace 3-(5-bromo-2-hydroxyphenyl)-3-hydroxy-1-pentyl-1,3-dihydro-2H-indol-2-one with ethyl[3-hydroxy-3-(3-hydroxy-5,6,7,8-tetrahydronaphthalen-2-yl)-2-oxo-2,3-dihydro-1H-indol-1-yl]acetate, the title compound was obtained: 1H NMR (300 MHz, CDCl3) δ 7.42-7.32 (m, 2H), 7.20 (t, 1H), 6.84 (d, 1H), 6.78 (s, 1H), 6.61 (s, 1H), 5.12 (s, 1H), 4.47 (ABq, 2H), 4.21 (q, 2H), 2.76-2.44 (m, 4H), 1.78-1.64 (m, 4H), 1.24 (t, 3H); MS (ES+) m/z 366 (M+1).

reactant | 3-(5-bromo-2-hydroxyphenyl)-3-hydroxy-1-pentyl-1,3-dihydro-2H-indol-2-one | BrC=1C=CC(=C(C1)C1(C(N(C2=CC=CC=C12)CCCCC)=O)O)O | C19H20BrNO3
reactant | ethyl[3-hydroxy-3-(3-hydroxy-5,6,7,8-tetrahydronaphthalen-2-yl)-2-oxo-2,3-dihydro-1H-indol-1-yl]acetate | C(C)OC(CN1C(C(C2=CC=CC=C12)(C1=CC=2CCCCC2C=C1O)O)=O)=O | C22H23NO5
product | ethyl[3-(3-hydroxy-5,6,7,8-tetrahydronaphthalen-2-yl)-2-oxo-2,3-dihydro-1H-indol-1-yl]acetate | C(C)OC(CN1C(C(C2=CC=CC=C12)C1=CC=2CCCCC2C=C1O)=O)=O | C22H23NO4
